US07863283B2
(RS)-S-[3-({[4-(Cyclopropylamino)quinazolin-7-yl]amino}methyl)phenyl]-S-methylsulphoximide
According to GWP 6, conversion of (RS)-S-[3-({[4-(cyclopropylamino)quinazolin-7-yl]amino}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide (58 mg, 0.13 mmol) and chromatographic purification (silica gel, n-hexane/ethyl acetate: 0→100% ethyl acetate, followed by dichloromethane/methanol: 0→25% methanol) gives the desired product in 74% yield (36 mg).

reactant | (RS)-S-[3-({[4-(cyclopropylamino)quinazolin-7-yl]amino}methyl)phenyl]-N-(ethoxycarbonyl)-S-methylsulphoximide | 0.13 mmol, 58 mg | C1(CC1)NC1=NC=NC2=CC(=CC=C12)NCC=1C=C(C=CC1)S(=O)(=NC(=O)OCC)C | C22H25N5O3S
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | (RS)-S-[3-({[4-(Cyclopropylamino)quinazolin-7-yl]amino}methyl)phenyl]-S-methylsulphoximide | 74% yield | C1(CC1)NC1=NC=NC2=CC(=CC=C12)NCC=1C=C(C=CC1)S(=O)(=N)C | C19H21N5OS
